* E:\Universiteit\Master\7 Q2 - 2021\EE4109-Structured-Electronic-Design\cir\InputStage.asc
XU1 N002 0 out NM18_noise ID={ID} IG={IG} W={W} L={L}
C1 N002 P001 {C_A}
V1 N001 0 V value=0 dc=0 dcvar=0 noise=0
E1 P001 0 N001 0 {L_A}
C2 0 N002 {C_f}
.lib SLiCAP.lib
.backanno
.end
